US05912258
Synthesis of 4-tert-butylaminobenzoic acid
Ethyl 4-aminobenzoate (165 g) and 95% sulfuric acid (24.5 g) were refluxed in tert-butanol (560 ml) with stirring for 16 hours. The reaction mixture neutralized with 28% aqueous ammonia, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1), thereby yielding an oil. The oil was dissolved in ethanol (100 ml) and then potassium hydroxide (23.5 g) and water (20 ml) were added thereto. The mixture was refluxed with stirring for 2 hours, neutralized the mixture with hydrochloric acid , and then extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from ethyl acetate to yield 23.5 g of the aimed compound.

reactant | Ethyl 4-aminobenzoate | 165 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | sulfuric acid | 24.5 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
reactant | potassium hydroxide | 23.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tert-butanol | 560 ml | C(C)(C)(C)O | C4H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-tert-butylaminobenzoic acid | 23.5 g | C(C)(C)(C)NC1=CC=C(C(=O)O)C=C1 | C11H15NO2
